US09388274B2
Isosorbide bis-thioglycolate (ISTG)
A mixture of isosorbide (60.00 grams, 0.41 moles), mercaptoacetic acid (83.21 grams, 0.90 moles), toluene (300 mL), and methane sulfonic acid (1.00 grams, 10 mmoles) was heated to reflux. Water was separated from the toluene/water azeotrope using a Dean Stark distillation trap. After four hours at reflux, a total of 15 mL of water was collected in the trap. The reaction mixture was cooled and washed with saturated aqueous sodium bicarbonate (2×200 mL) and brine (100 mL). The solution was dried over magnesium sulfate and then concentrated under reduced pressure. The product was a colorless oil. (Yield: 106.10 grams).

reactant | isosorbide | 0.41 moles, 60.00 grams | C1[C@H]([C@@H]2[C@H](O1)[C@H](CO2)O)O | C6H10O4
reactant | mercaptoacetic acid | 0.90 moles, 83.21 grams | SCC(=O)O | C2H4O2S
reactant | methane sulfonic acid | 10 mmoles, 1.00 grams | CS(=O)(=O)O | CH4O3S
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | Isosorbide bis-thioglycolate | C1[C@H]([C@@H]2[C@H](O1)[C@H](CO2)O)O.C(CO)(=S)[S-] | InChI=1S/C6H10O4.C2H4OS2/c7-3-1-9-6-4(8)2-10-5(3)6;3-1-2(4)5/h3-8H,1-2H2;3H,1H2,(H,4,5)/p-1/t3-,4+,5-,6-;/m1./s1
